US07939539B2
To a solution of tert-butyl 3-{[1-(7-chloro-4-oxo-3,4-dihydroquinazolin-2-yl)-2-(dimethylamino)-2-oxoethyl]amino}propylcarbamate (1.2 g, 1 eq.) methylene chloride 920 ml) at 0° C., was added 4-methyl benzoyl chloride (1.1 ml, 3 eq.) and triethylamine (1.9 ml, 5 eq.). The reaction was allowed to warm up to room temperature and stirred at room temperature overnight. The solvent was evaporated and the crude product was dissolved in ethyl acetate. Ethyl acetate layer was washed with water, saturated sodium carbonate, saturated sodium chloride, dried over magnesium sulfate, filtered, and evaporated to yield 2-[1-[{3-[(tert-butoxycarbonyl)amino]propyl} (4-methylbenzoyl)amino]-2-(dimethylamino)-2-oxoethyl]-7-chloro-3,4-dihydroquinazolin-4-yl 4-methylbenzoate (2.3 g) as a brown oil.

reactant | tert-butyl 3-{[1-(7-chloro-4-oxo-3,4-dihydroquinazolin-2-yl)-2-(dimethylamino)-2-oxoethyl]amino}propylcarbamate | 920 ml, 1.2 g, 1 eq. | ClC1=CC=C2C(NC(=NC2=C1)C(C(=O)N(C)C)NCCCNC(OC(C)(C)C)=O)=O | C20H28ClN5O4
reactant | 4-methyl benzoyl chloride | 1.1 ml, 3 eq. | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
reactant | triethylamine | 1.9 ml, 5 eq. | C(C)N(CC)CC | C6H15N
product | 2-[1-[{3-[(tert-butoxycarbonyl)amino]propyl} (4-methylbenzoyl)amino]-2-(dimethylamino)-2-oxoethyl]-7-chloro-3,4-dihydroquinazolin-4-yl 4-methylbenzoate | 2.3 g | CC1=CC=C(C(=O)OC2NC(=NC3=CC(=CC=C23)Cl)C(C(=O)N(C)C)N(C(C2=CC=C(C=C2)C)=O)CCCNC(=O)OC(C)(C)C)C=C1 | C36H42ClN5O6
